US07642264B2
2-Chloro-4-(4-chloro-phenyl)-6-methyl-pyrimidine
The title compound was prepared from 4-(4-chloro-phenyl)-6-methyl-1H-pyrimidin-2-one (11.0 g, 50.0 mmol) and phosphoryl chloride (20 mL) according to step 3 of the general procedure I. Obtained as an off-white solid (6.8 g, 57%). MS (ISP) 239.0 [(M+H)+]; mp 116-117° C.

reactant | 4-(4-chloro-phenyl)-6-methyl-1H-pyrimidin-2-one | 50.0 mmol, 11.0 g | ClC1=CC=C(C=C1)C1=NC(NC(=C1)C)=O | C11H9ClN2O
reactant | phosphoryl chloride | 20 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 2-Chloro-4-(4-chloro-phenyl)-6-methyl-pyrimidine | ClC1=NC(=CC(=N1)C1=CC=C(C=C1)Cl)C | C11H8Cl2N2
